US07176199B2
To a solution of 4-oxocyclohexanecarboxylic acid ethyl ester (8.0 g) and 2,6-di(tert-butyl)-4-methylpyridine (14.4 g) in dichloromethane (200 ml) is added trifluoromethanesulfonic anhydride (8.73 ml) at −78° C., and the mixture is gradually warmed to 25° C., and the mixture is stirred at the same temperature overnight. The reaction solution is poured into aqueous sodium hydrogen carbonate solution, and the mixture is extracted with ethyl acetate. The organic layer is washed with saturated brine, and the solvent is evaporated under reduced pressure to give 4-trifluoromethanesulfonyloxy-3-cyclohexenecarboxylic acid ethyl ester. (2) To a mixture of the above trifluoromethanesulfonyloxy compound and 3-nitrophenylboronic acid (10.0 g), lithium chloride (6.4 g) in ethylene glycol dimethyl ether (160 ml) and 2 M sodium carbonate (60.0 ml) is added tetrakistriphenylphosphine palladium (0) (2.88 g), and the mixture is stirred at 90° C. under argon atmosphere for 3 hours. The reaction solution is poured into ice, and the mixture is extracted with ethyl acetate. The organic layer is washed with saturated brine, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient, 0% to 100% ethyl acetate/hexane) to give the title compound (10.0 g).

reactant | 4-oxocyclohexanecarboxylic acid ethyl ester | 8.0 g | C(C)OC(=O)C1CCC(CC1)=O | C9H14O3
reactant | 2,6-di(tert-butyl)-4-methylpyridine | 14.4 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoromethanesulfonic anhydride | 8.73 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-trifluoromethanesulfonyloxy-3-cyclohexenecarboxylic acid ethyl ester | C(C)OC(=O)C1CC=C(CC1)OS(=O)(=O)C(F)(F)F | C10H13F3O5S
